US07732446B1
As described in Example 1, 78 mg of (6,7-dimethoxy-4-{[methyl-(2-pyridin-2-yl-ethyl)-carbamoyl]-methyl}-isoquinolin-1-ylmethyl)-carbamic acid tert-butyl ester was treated with HCl in EtOAc to give 86 mg (>100%) of 2-(1-aminomethyl-6,7-dimethoxy-isoquinolin-4-yl)-N-methyl-N-(2-pyridin-2-yl-ethyl)-acetamide hydrochloride. MS: APCI (M+H) calc'd for C22H26N4O3+H 395.5; found 395.1.

reactant | (6,7-dimethoxy-4-{[methyl-(2-pyridin-2-yl-ethyl)-carbamoyl]-methyl}-isoquinolin-1-ylmethyl)-carbamic acid tert-butyl ester | 78 mg | C(C)(C)(C)OC(NCC1=NC=C(C2=CC(=C(C=C12)OC)OC)CC(N(CCC1=NC=CC=C1)C)=O)=O | C27H34N4O5
reactant | HCl | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(1-aminomethyl-6,7-dimethoxy-isoquinolin-4-yl)-N-methyl-N-(2-pyridin-2-yl-ethyl)-acetamide hydrochloride | 86 mg, >100% | Cl.NCC1=NC=C(C2=CC(=C(C=C12)OC)OC)CC(=O)N(CCC1=NC=CC=C1)C | InChI=1S/C22H26N4O3.ClH/c1-26(9-7-16-6-4-5-8-24-16)22(27)10-15-14-25-19(13-23)18-12-21(29-3)20(28-2)11-17(15)18;/h4-6,8,11-12,14H,7,9-10,13,23H2,1-3H3;1H
